US07871982B2
(i) (4-Bromophenyl)(morpholino)methanone
1-Hydroxybenzotriazole (2.02 g, 14.9 mmol) and 2.86 g (14.9 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to a solution of 2.0 g (9.95 mmol) of 4-bromobenzoic acid in N,N-dimethylformamide (15 ml), and the mixture was stirred at room temperature for 10 min. Thereafter, 1.3 ml (14.9 mmol) of morpholine was added thereto, and the mixture was stirred at room temperature for 18 hr. The reaction was stopped by adding a saturated aqueous sodium hydrogencarbonate solution, and the reaction solution was extracted with ethyl acetate. The organic layer was washed with water and saturated brine in that order, was dried over anhydrous sodium sulfate, and was then filtered. The filtrate was concentrated under the reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give 2.66 g (yield 99%) of the title compound.

reactant | 1-Hydroxybenzotriazole | 14.9 mmol, 2.02 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 14.9 mmol, 2.86 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-bromobenzoic acid | 9.95 mmol, 2.0 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | morpholine | 14.9 mmol, 1.3 ml | N1CCOCC1 | C4H9NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (4-Bromophenyl)(morpholino)methanone | 2.66 g, yield 99% | BrC1=CC=C(C=C1)C(=O)N1CCOCC1 | C11H12BrNO2
